US08466186B2
(c) N-(3-Amino-4-fluorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide
The sub-title compound was prepared in analogy to the procedure in Example 93, step (c) using N-(4-fluoro-3-nitrobenzyl)-1-(trifluoromethyl)-cyclopropanecarboxamide (3.77 g; 12.3 mmol), Fe (3.45 g; 61.6 mmol), NH4Cl (aq, sat, 30 mL) and EtOH (30 mL).

reactant | N-(4-fluoro-3-nitrobenzyl)-1-(trifluoromethyl)-cyclopropanecarboxamide | 12.3 mmol, 3.77 g | FC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)[N+](=O)[O-] | C12H10F4N2O3
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
catalyst | Fe | 61.6 mmol, 3.45 g | [Fe] | Fe
solvent | EtOH | 30 mL | CCO | C2H6O
product | N-(3-Amino-4-fluorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide | NC=1C=C(CNC(=O)C2(CC2)C(F)(F)F)C=CC1F | C12H12F4N2O
